US05789404
N,N-Dimethyl-2-[5-chloro-1-(4-fluorophenyl)-2-hydroxymethyl-3-1H-indolyloxy]ethylamine Hydrochloride (9)
A solution of N,N-dimethyl-2-chloroacetamide (28 g) in acetone (300 mL) was added dropwise during 1 hour to a mixture of 5-chloro-1-(4-fluorophenyl)-3-hydroxy-1H-indole-2-carboxylic acid methyl ester (64 g) (prepared according to the method of Unangst et al. J.Heterocyc.Chem. 1984, 21, 709-714 and 1987, 24, 811-815) and potassium carbonate (40 g) in acetone (500 mL) kept at reflux. The mixture was refluxed for another 3 hours and subsequently worked-up. The resulting crude acetamide derivative crystallized from cyclohexane. Yield 72 g. Mp: 124°-125° C. To a suspension of LiAlH4 pellets (10 g) in dry THF (200 mL) kept at gentle reflux was added dropwise a solution of the acetamide derivative (35 g) in dry THF (300 mL). After reflux for 2 hours the mixture was cooled on an ice bath and excess LiAlH4 was hydrolyzed by cautiously adding a mixture of 10% water in THF. Inorganic salts were filtered off and the solvent evaporated in vacuo leaving the title compound as a visceous oil. Yield: 19 g. The hydrochloric acid salt of the title compound 9 crystallized from acetone by addition of a solution of hydrogenchloride gas in diethyl ether.mp 185°-186° C.; 1H NMR (DMSO-d6) δ 2.90 (s, 6H), 3.60 (t, 2H), 4.40 (s, 2H), 4.45 (t, 2H), 7.05 (d, 1H), 7.10 (dd, 1H), 7.40 (t, 2H), 7.55 (dd, 2H), 7.85 (d, 1H). MS (m/z) 363 (MH+), 72 (100); Anal (C19H20ClFN2O2.HCl) C, H, N.

reactant | N,N-dimethyl-2-chloroacetamide | 28 g | CN(C(CCl)=O)C | C4H8ClNO
reactant | 5-chloro-1-(4-fluorophenyl)-3-hydroxy-1H-indole-2-carboxylic acid methyl ester | 64 g | COC(=O)C=1N(C2=CC=C(C=C2C1O)Cl)C1=CC=C(C=C1)F | C16H11ClFNO3
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1-[2-[[2-[5-Chloro-1-(4-fluorophenyl)-3-1H-indolylthio]ethyl]methylamino]ethyl]-2-imidazolidinone | 300 mL | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)SCCN(CCN1C(NCC1)=O)C | C22H24ClFN4OS
solvent | 1-[2-[[2-[5-Chloro-1-(4-fluorophenyl)-3-1H-indolylthio]ethyl]methylamino]ethyl]-2-imidazolidinone | 500 mL | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)SCCN(CCN1C(NCC1)=O)C | C22H24ClFN4OS
product | N,N-Dimethyl-2-[5-chloro-1-(4-fluorophenyl)-2-hydroxymethyl-3-1H-indolyloxy]ethylamine Hydrochloride | Cl.CN(C)CCOC1=C(N(C2=CC=C(C=C12)Cl)C1=CC=C(C=C1)F)CO | InChI=1S/C19H20ClFN2O2.ClH/c1-22(2)9-10-25-19-16-11-13(20)3-8-17(16)23(18(19)12-24)15-6-4-14(21)5-7-15;/h3-8,11,24H,9-10,12H2,1-2H3;1H
